// File: voter3x1_pcell.spi
// Created: Thu Jan 22 07:17:00 2026
// Program "Calibre xRC"
// Version "v2023.2_27.15"
// 
simulator lang=spectre
include "/import/yukari1/lrburle/sky130RHBDlib/calibre/sky130_rhbd_output/spice/voter3x1_pcell.pex.spice"
subckt voter3x1_pcell (  )
// 
M0_noxref ( N_noxref_8_M0_noxref_d N_noxref_1_M0_noxref_g \
 N_noxref_10_M0_noxref_s noxref_145 ) NMOS l=0.163119 w=2.35104 m=1
M1_noxref ( N_noxref_4_M1_noxref_d N_noxref_3_M1_noxref_g \
 N_noxref_10_M0_noxref_s noxref_145 ) NMOS l=0.163346 w=2.31104 m=1
M2_noxref ( noxref_11 N_noxref_1_M2_noxref_g N_noxref_13_M2_noxref_s \
 noxref_145 ) NMOS l=0.163119 w=2.35104 m=1
M3_noxref ( N_noxref_4_M3_noxref_d N_noxref_2_M3_noxref_g \
 N_noxref_13_M2_noxref_s noxref_145 ) NMOS l=0.163346 w=2.31104 m=1
M4_noxref ( N_noxref_8_M4_noxref_d N_noxref_2_M4_noxref_g \
 N_noxref_14_M4_noxref_s noxref_145 ) NMOS l=0.163119 w=2.35104 m=1
M5_noxref ( N_noxref_4_M5_noxref_d N_noxref_3_M5_noxref_g \
 N_noxref_14_M4_noxref_s noxref_145 ) NMOS l=0.163129 w=2.31397 m=1
M6_noxref ( N_noxref_9_M6_noxref_d N_noxref_4_M6_noxref_g \
 N_noxref_8_M6_noxref_s noxref_145 ) NMOS l=0.163346 w=2.31104 m=1
M7_noxref ( N_noxref_6_M7_noxref_d N_noxref_1_M7_noxref_g \
 N_noxref_5_M7_noxref_s noxref_143 ) PMOS l=0.15 w=2 ad=0.57 as=0.57 pd=2.57 \
 ps=2.57 nrd=0 nrs=0 m=1
M8_noxref ( N_noxref_5_M8_noxref_d N_noxref_1_M8_noxref_g \
 N_noxref_6_M7_noxref_d noxref_143 ) PMOS l=0.15 w=2 ad=0.58 as=0.58 pd=2.58 \
 ps=2.58 nrd=0 nrs=0 m=1
M9_noxref ( N_noxref_6_M9_noxref_d N_noxref_3_M9_noxref_g \
 N_noxref_5_M8_noxref_d noxref_143 ) PMOS l=0.15 w=2 ad=0.58 as=0.58 pd=2.58 \
 ps=2.58 nrd=0 nrs=0 m=1
M10_noxref ( N_noxref_5_M10_noxref_d N_noxref_3_M10_noxref_g \
 N_noxref_6_M9_noxref_d noxref_143 ) PMOS l=0.15 w=2 ad=0.56 as=0.56 pd=2.56 \
 ps=2.56 nrd=0 nrs=0 m=1
M11_noxref ( N_noxref_7_M11_noxref_d N_noxref_1_M11_noxref_g \
 N_noxref_6_M11_noxref_s noxref_143 ) PMOS l=0.15 w=2 ad=0.56 as=0.56 pd=2.56 \
 ps=2.56 nrd=0 nrs=0 m=1
M12_noxref ( N_noxref_6_M12_noxref_d N_noxref_1_M12_noxref_g \
 N_noxref_7_M11_noxref_d noxref_143 ) PMOS l=0.15 w=2 ad=0.58 as=0.58 pd=2.58 \
 ps=2.58 nrd=0 nrs=0 m=1
M13_noxref ( noxref_12 N_noxref_2_M13_noxref_g N_noxref_6_M12_noxref_d \
 noxref_143 ) PMOS l=0.15 w=2 ad=0.58 as=0.58 pd=2.58 ps=2.58 nrd=0 nrs=0 m=1
M14_noxref ( N_noxref_6_M14_noxref_d N_noxref_2_M14_noxref_g noxref_12 \
 noxref_143 ) PMOS l=0.15 w=2 ad=0.57 as=0.57 pd=2.57 ps=2.57 nrd=0 nrs=0 m=1
M15_noxref ( N_noxref_4_M15_noxref_d N_noxref_2_M15_noxref_g \
 N_noxref_7_M15_noxref_s noxref_143 ) PMOS l=0.15 w=2 ad=0.57 as=0.57 pd=2.57 \
 ps=2.57 nrd=0 nrs=0 m=1
M16_noxref ( N_noxref_7_M16_noxref_d N_noxref_2_M16_noxref_g \
 N_noxref_4_M15_noxref_d noxref_143 ) PMOS l=0.15 w=2 ad=0.58 as=0.58 pd=2.58 \
 ps=2.58 nrd=0 nrs=0 m=1
M17_noxref ( N_noxref_4_M17_noxref_d N_noxref_3_M17_noxref_g \
 N_noxref_7_M16_noxref_d noxref_143 ) PMOS l=0.15 w=2 ad=0.58 as=0.58 pd=2.58 \
 ps=2.58 nrd=0 nrs=0 m=1
M18_noxref ( N_noxref_7_M18_noxref_d N_noxref_3_M18_noxref_g \
 N_noxref_4_M17_noxref_d noxref_143 ) PMOS l=0.15 w=2 ad=0.56 as=0.56 pd=2.56 \
 ps=2.56 nrd=0 nrs=0 m=1
M19_noxref ( N_noxref_9_M19_noxref_d N_noxref_4_M19_noxref_g \
 N_noxref_5_M19_noxref_s noxref_143 ) PMOS l=0.15 w=2 ad=0.57 as=0.57 pd=2.57 \
 ps=2.57 nrd=0 nrs=0 m=1
M20_noxref ( N_noxref_5_M20_noxref_d N_noxref_4_M20_noxref_g \
 N_noxref_9_M19_noxref_d noxref_143 ) PMOS l=0.15 w=2 ad=0.56 as=0.56 pd=2.56 \
 ps=2.56 nrd=0 nrs=0 m=1
c_2030 ( noxref_11 0 ) capacitor c=0.0069842f //x=4.32 //y=0.865
c_2041 ( noxref_12 0 ) capacitor c=0.0143171f //x=5.285 //y=5.025
// 
include "/import/yukari1/lrburle/sky130RHBDlib/calibre/sky130_rhbd_output/spice/voter3x1_pcell.pxi.spice"
// 
ends VOTER3X1_PCELL
// 
// 
